US06054470
To a solution of sodium sulfite (14.3 g, 113 mmol) in water (60 mL) was added 4-methylbenzyl chloride (15.0 mL, 113 mmol). The mixture was stirred under reflux for 12 hours, and cooled to rt. The precipitate was collected by filtration, and washed with water and ether to give 4-methylphenylmethanesulfonic acid sodium salt (12.5 g, 60 mmol, 53%).

reactant | sodium sulfite | 113 mmol, 14.3 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methylbenzyl chloride | 113 mmol, 15.0 mL | CC1=CC=C(CCl)C=C1 | C8H9Cl
solvent | water | 60 mL | O | H2O
product | 4-methylphenylmethanesulfonic acid sodium salt | 60 mmol, 12.5 g, 53% | [Na+].CC1=CC=C(C=C1)CS(=O)(=O)[O-] | InChI=1S/C8H10O3S.Na/c1-7-2-4-8(5-3-7)6-12(9,10)11;/h2-5H,6H2,1H3,(H,9,10,11);/q;+1/p-1
